**************************************************
* Manufacturer:           Wurth Elektronik 
* Kinds:                  Gate-Drive-Transformer
* Matchcode:              WE-GDTI
* Library Type:           LTspice
* Version:                rev22a
* Created/modified by:    Toby      
* Date and Time:          2022-05-23
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.SUBCKT 760301301 1 2 3 4 5 6
L1 2 N001 1060u Rser=0.84
L2 4 3 1060u Rser=0.97
L4 1 N001 2.8u
C1 3 N001 5.5p
L3 6 5 1060u Rser=0.97
C2 6 2 5.5p
k1 L1 L2 L3 1
.ENDS 760301301

.SUBCKT 760301302 1 2 3 4
L1 2 N001 1060u Rser=0.84
L2 4 3 1060u Rser=0.99
L3 1 N001 2.3u
C1 3 N001 11p
k1 L1 L2 1
.ENDS 760301302

.SUBCKT 760301303 1 2 3 4 5 6
L1 2 N001 1060u Rser=0.84
L2 4 3 265u Rser=0.5
L4 1 N001 2.7u
C1 3 N001 5.5p
L3 6 5 265u Rser=0.5
C2 6 2 5.5p
k1 L1 L2 L3 1
.ENDS 760301303

.SUBCKT 760301304 1 2 3 4 5 6
L1 2 N001 1410u Rser=1
L2 4 3 225.6u Rser=0.45
L4 1 N001 3.8u
C1 3 N001 5.5p
L3 6 5 225.6u Rser=0.45
C2 6 2 5.5p
k1 L1 L2 L3 1
.ENDS 760301304

.SUBCKT 760301305 1 2 3 4 5 6
L1 2 N001 1050u Rser=0.82
L2 4 3 467u Rser=0.64
L4 1 N001 2.6u
C1 3 N001 5.5p
L3 6 5 467u Rser=0.64
C2 6 2 5.5p
k1 L1 L2 L3 1
.ENDS 760301305

.SUBCKT 760301306 1 2 3 4 5 6
L1 2 N001 2900u Rser=1.25
L2 4 3 322u Rser=0.52
L4 1 N001 6.8u
C1 3 N001 5.5p
L3 6 5 322u Rser=0.52
C2 6 2 5.5p
k1 L1 L2 L3 1
.ENDS 760301306